US06713474B2
A mixture of 2-[4-(4-amino-7-(3-tetrahydrofuryl)-7H-pyrrolo[2,3-d)pyrimidin-5-yl)phenoxy]benzaldehyde (0.15 g), morpholine (64 mg), sodium triacetoxyborohydride (117 mg) and 1,2 dichloroethane (5 ml) was stirred at ambient temperature for 18 hours. Saturated aqueous sodium bicarbonate solution was added and the mixture was filtered through an EMPORE® cartridge. The filtrate was evaporated and the residue was dissolved in dichloromethane (5 ml) and then tris(2-aminoethyl)amine-polymer bound (0.3 g) and 2 drops of glacial acetic acid were added and the mixture was stirred at ambient temperature overnight. The polymer was removed by filtration and washed with dichloromethane and then with methanol. The combined organic filtrate and washings were evaporated under reduced pressure to give an oil which was triturated with diethyl ether/ethyl acetate with warming to dissolve the solid and then the solution was cooled in ice and filtered to give 5-[4-(2-morpholinomethylphenoxy)phenyl] -7-(3-tetrahydrofuryl)-7H-pyrrolo[2,3-d]pyrimidin-4-ylamine, m.p. 169-171° C.

reactant | 2-[4-(4-amino-7-(3-tetrahydrofuryl)-7H-pyrrolo[2,3-d)pyrimidin-5-yl)phenoxy]benzaldehyde | 0.15 g | NC=1C2=C(N=CN1)N(C=C2C2=CC=C(OC1=C(C=O)C=CC=C1)C=C2)C2COCC2 | C23H20N4O3
reactant | morpholine | 64 mg | N1CCOCC1 | C4H9NO
reactant | sodium triacetoxyborohydride | 117 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | 1,2 dichloroethane | 5 ml | ClCCCl | C2H4Cl2
product | 5-[4-(2-morpholinomethylphenoxy)phenyl] -7-(3-tetrahydrofuryl)-7H-pyrrolo[2,3-d]pyrimidin-4-ylamine | O1CCN(CC1)CC1=C(OC2=CC=C(C=C2)C2=CN(C=3N=CN=C(C32)N)C3COCC3)C=CC=C1 | C27H29N5O3
